US07897631B2
tert-butyl 2-amino-4-(hept-6-ynyl)-1H-imidazole-1-carboxylate (0.105 g, 0.379 mmol) was reacted with N-(2-azidoethyl)thiophene-2-sulfonamide (0.099 g, 0.379 mmol) following the general click procedure to give tert-butyl 2-amino-4-(5-(1-(2-(thiophene-2-sulfonamido)ethyl)-1H-1,2,3-triazol-4-yl)pentyl)-1H-imidazole-1-carboxylate 1H NMR (300 MHz, CDCl3) δ 7.49 (s, 3H), δ 7.39 (S, 1H), δ 6.99 (s, 1H), δ 6.41 (bm, 3H), δ 4.43 (s, 2H), δ 3.42 (s, 2H), δ 2.54 (s, 2H), δ 2.09 (s, 2H), δ 1.51 (m, 13H), δ 1.19 (s, 2H) ppm; 13C NMR (75 MHz, CDCl3) δ 150.8, 149.4, 148.1, 141.1, 138.3, 132.2, 132.1, 127.7, 122.6, 85.2, 53.8, 50.2, 43.2, 31.2, 29.9, 29.2, 28.8, 28.1, 25.5 ppm; HRMS (ESI) calcd for C21H31N7O4S2 (M+) 509.1879. found 509.1879, which was subsequently deprotected to give N-(2-(4-(5-(2-amino-1H-imidazol-4-yl)pentyl)-1H-1,2,3-triazol-1-yl)ethyl)thiophene-2-sulfonamide hydrochloride (0.098 g, 58% yield). 1H NMR (400 MHz, CD3OD) δ 8.37 (s, 1H), δ 7.76 (s, 1H), δ 7.57 (s, 1H), δ 7.11 (s, 1H), δ 6.46 (s, 1H), δ 4.79 (s, 2H), δ 3.55 (s, 2H), δ 2.50 (s, 2H), δ 1.66-1.18 (bm, 8H) ppm; 13C NMR (100 MHz, CD3OD) δ 175.6, 155.6, 147.2, 140.9, 132.7, 132.3, 127.8, 127.7, 108.8, 53.1, 42.2, 36.8, 28.1, 27.8, 27.5, 24.9, 24.3, 23.8 ppm; HRMS (ESI) calcd for C16H23N7O2S2 (M+) 409.1355. found 409.1354.

reactant | tert-butyl 2-amino-4-(hept-6-ynyl)-1H-imidazole-1-carboxylate | 0.379 mmol, 0.105 g | NC=1N(C=C(N1)CCCCCC#C)C(=O)OC(C)(C)C | C15H23N3O2
reactant | N-(2-azidoethyl)thiophene-2-sulfonamide | 0.379 mmol, 0.099 g | N(=[N+]=[N-])CCNS(=O)(=O)C=1SC=CC1 | C6H8N4O2S2
product | tert-butyl 2-amino-4-(5-(1-(2-(thiophene-2-sulfonamido)ethyl)-1H-1,2,3-triazol-4-yl)pentyl)-1H-imidazole-1-carboxylate | NC=1N(C=C(N1)CCCCCC=1N=NN(C1)CCNS(=O)(=O)C=1SC=CC1)C(=O)OC(C)(C)C | C21H31N7O4S2
